US07144890B2
To a cooled (ice-bath) solution of (6-fluoro-2,2-diphenyl-benzo[1,3]dioxol-5-yl)-morpholin-4-yl-methanone (5.70 g, 14.06 mMol) in trifluoroacetic acid (60 ml) was added triethylsilane (2.1 eq, 4.7 ml) over 10 min. The mixture was stirred 20 min at 0° C. and 4 h at room temperature. The volatiles were removed under reduced pressure and the residue purified by column chromatography on silica gel (2:1 ethyl acetate/heptane-ethyl acetate-10:1 ethyl acetate/methanol) to afford (2-fluoro-4,5-dihydroxy-phenyl)-morpholin-4-yl-methanone as liht brown solid (3.19 g, 94%).

reactant | (6-fluoro-2,2-diphenyl-benzo[1,3]dioxol-5-yl)-morpholin-4-yl-methanone | 14.06 mMol, 5.70 g | FC=1C(=CC2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)N1CCOCC1 | C24H20FNO4
reactant | triethylsilane | 4.7 ml, 2.1 eq | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2-fluoro-4,5-dihydroxy-phenyl)-morpholin-4-yl-methanone | 3.19 g, 94% | FC1=C(C=C(C(=C1)O)O)C(=O)N1CCOCC1 | C11H12FNO4
